US05378702
A solution of 2.8 g of 5-[1-N-ethyl-3,4-dimethoxybenzimidoyl)-1,2,3,4-tetrahydroquinolin-6-yl]-6,6-dimethyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one (m.p. 188°) in 40 ml of dimethylformamide is treated with ice-cooling with 0.3 g of NaH and the mixture is stirred for 1 hour. 1.5 ml of ethyl iodide are then added, the mixture is stirred fur a further 2 hours and, after customary working up, 5-[1-N-ethyl-3,4-dimethoxybenzimidoyl)-1,2,3,4-tetrahydroquinolin-6-yl]-3-ethyl-6,6-dimethyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one is obtained.

reactant | 6,6-dimethyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one | CC1(C=NNC(S1)=O)C | C5H8N2OS
reactant | NaH | 0.3 g | [H-].[Na+]
reactant | ethyl iodide | 1.5 ml | C(C)I | C2H5I
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 3-ethyl-6,6-dimethyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one | C(C)N1C(SC(C=N1)(C)C)=O | C7H12N2OS
